US04466970
1-[3-[4-(Piperidinomethyl)pyrid-2-yloxy]prop-1-ylamino]-2-(methylamino)cyclobut-1-ene-3,4-dione
By the methods of Example 1, 1-(methylamino)-2-methoxycyclobut-1-ene-3,4-dione and 3-[4-(piperidinomethyl)pyrid-2-yloxy]prop-1-ylamine are reacted to form the title product.

reactant | 1-(methylamino)-2-methoxycyclobut-1-ene-3,4-dione | CNC1=C(C(C1=O)=O)OC | C6H7NO3
reactant | 3-[4-(piperidinomethyl)pyrid-2-yloxy]prop-1-ylamine | N1(CCCCC1)CC1=CC(=NC=C1)OCCCN | C14H23N3O
product | 1-[3-[4-(Piperidinomethyl)pyrid-2-yloxy]prop-1-ylamino]-2-(methylamino)cyclobut-1-ene-3,4-dione | N1(CCCCC1)CC1=CC(=NC=C1)OCCCNC1=C(C(C1=O)=O)NC | C19H26N4O3
